US07008618B1
Preparation of N-[3-(dimethylamino)propyl]methacrylamide-N-(3-bromopropyl)phthalimide quaternary salt (DMAPMA.PQ).
A 500 ml flask is charged with isopropanol (200 mL), MEHQ (methylhydroquinone, 0.5 g), N-(3-bromopropyl)phthalimide (53.6 g, 0.2 mole) and DMAPMA (N-[3-(dimethylamino)propyl]methacrylamide, 37.5 g, 0.22 mole). The mixture is heated at reflux for 12 hours. The solution is then cooled down and the majority of the solvent was removed by vacuum distillation. The resulting viscous liquid is put into freezer overnight. The resulting precipitate is dried and collected to provide the title compound in near quantitative yield.

reactant | MEHQ | 0.5 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | N-(3-bromopropyl)phthalimide | 0.2 mole, 53.6 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | DMAPMA | 0.22 mole, 37.5 g | CC(=C)C(=O)NCCCN(C)C | C9H18N2O
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
product | N-[3-(dimethylamino)propyl]methacrylamide N-(3-bromopropyl)phthalimide | quantitative yield | CN(CCCNC(C(=C)C)=O)C.BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | InChI=1S/C11H10BrNO2.C9H18N2O/c12-6-3-7-13-10(14)8-4-1-2-5-9(8)11(13)15;1-8(2)9(12)10-6-5-7-11(3)4/h1-2,4-5H,3,6-7H2;1,5-7H2,2-4H3,(H,10,12)
